US05883134
2-Ethylsulfinyl-1-nitrobutene was prepared by the dropwise addition of aqueous hydrogen peroxide (1.05 g., 0.0093 mol) to a stirred solution of 2-ethylthio-1-nitrobutene (1.50 g., 0.0093 mol) in formic acid (20 ml.). The resulting solution was stirred at room temperature for 18 hours. The solvent was removed under reduced pressure and the residue was dissolved in methylene chloride, washed successively with saturated aqueous sodium bicarbonate (1×50 ml.) and deionized water (1×50 ml.), dried over anhydrous magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (2:1 hexanes/ethyl acetate) afforded the isomeric mixture of the product as a yellow oil, 0.42g., 25% yield. 1H-NMR (CDCl3): δ 1.26, m, 3H, CH3 ; 1.5, t, 3H, CH3 ; 2.5-2.85, m, 2H, --CH2 --; 2.85-3.2, m, 2H, SCH2 --; 7.2+7.3, 2s, 1H, olefinic H.

reactant | hydrogen peroxide | 0.0093 mol, 1.05 g | OO | H2O2
reactant | 2-ethylthio-1-nitrobutene | 0.0093 mol, 1.50 g | C(C)SC(=C[N+](=O)[O-])CC | C6H11NO2S
solvent | formic acid | 20 ml | C(=O)O | CH2O2
product | 2-Ethylsulfinyl-1-nitrobutene | 25% yield | C(C)S(=O)C(=C[N+](=O)[O-])CC | C6H11NO3S
